US04010177
A stirred solution of potassium hydroxide (3.37 g., 0.06 mole) in methanol (30 ml.) is cooled in an ice bath, under nitrogen, and treated with (cyclopropylmethyl)-amine hydrochloride (6.45 g., 0.06 mole). The resulting mixture is kept in the ice bath for 15 minutes, treated with tetrahydrofuran (250 ml.), 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine (6.86 g., 0.02 mole) and potassium iodide (3.32 g., 0.02 mole) and kept at ambient temperature for 18 hours. The mixture is concentrated and the residue is mixed with water and extracted with methylene chloride. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The product is crystallized once from ethyl acetate and once from methylene chloride ethyl acetate to give 8-(trifluoromethyl)-1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 28 8 -Chloro-1-[[(cyclopropylmethyl)amino] methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | potassium hydroxide | 0.06 mole, 3.37 g | [OH-].[K+]
reactant | (cyclopropylmethyl)-amine hydrochloride | 0.06 mole, 6.45 g | Cl.C1(CC1)CN
reactant | 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.02 mole, 6.86 g | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1)(F)F | C18H11Cl2F3N4
reactant | potassium iodide | 0.02 mole, 3.32 g | [I-].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 8-(trifluoromethyl)-1-[[(cyclopropylmethyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC3CC3)C3=C(C=CC=C3)Cl)C1)(F)F | C22H19ClF3N5
